US08304556B2
B-15a) 2-(2-Methoxy-ethoxy)-isoindole-1,3-dione
A mixture of N-hydroxyphthalimide (30.0 g, 184 mmol) and potassium carbonate (25.4 g, 138 mmol) in 300 mL NMP is heated to 50° C. Potassium iodide (0.15 g, 0.90 mmol) and 2-bromoethyl methyl ether (19.0 ml, 202 mmol) are added and the reaction mixture is stirred at 80° C. for 2 h. The reaction mixture is poured on 1 M aqueous HCl and extracted with ethyl acetate. The combined organic phases are dried over MgSO4 and concentrated in vacuo. The residue is triturated with water and subsequently crystallized from EtOH. Yield: 17.1 g.

reactant | N-hydroxyphthalimide | 184 mmol, 30.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 138 mmol, 25.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Potassium iodide | 0.90 mmol, 0.15 g | [I-].[K+]
reactant | 2-bromoethyl methyl ether | 202 mmol, 19.0 ml | COCCBr | C3H7BrO
reactant | HCl | 1 M | Cl | ClH
solvent | NMP | 300 mL | CN1CCCC1=O | C5H9NO
product | 2-(2-Methoxy-ethoxy)-isoindole-1,3-dione | COCCON1C(C2=CC=CC=C2C1=O)=O | C11H11NO4
